* source STABILIZATOR_ERS_
R_R34         N58477 N58211  1.5k TC=0,0 
R_R1         0 N58341  3.3k TC=0,0 
R_R16         N58365 N58115  68 TC=0,0 
Q_Q20         N58477 N58351 N58009 QBC856B 
D_D6         0 N58533 BZX84-C5V1 
Q_Q16         N58351 N58329 N58009 QBC856B 
Q_Q18         N58351 N58533 N58697 QBC846B 
Q_Q26         N58211 N64633 0 QBC846B 
Q_Q7         N58329 N58691 N58697 QBC846B 
R_R32         N62642 N58533  15k TC=0,0 
R_R3         0 N58791  2.2k TC=0,0 
R_R7         0 N58833  440 TC=0,0 
R_R31         N58109 N58115  0.47 TC=0,0 
R_R28         N58485 N58365  1.5k TC=0,0 
Q_Q29         N58083 N58141 N58009 QMJD32CT4G 
Q_Q17         N58329 N58329 N58009 QBC856B 
Q_Q5         N58533 N58341 N58249 QBC807-25 
D_D7         N58341 N58009 BZX84-C5V1 
X_R27         N58707 N58691 N58485 POT PARAMS: SET={Pot_SET} VALUE=10k
V_V1         N58009 0 22
Q_Q19         N58477 N58533 N58833 QBC846B 
R_R2         N58249 N58009  820 TC=0,0 
R_R22         N58115 0  {Rload} TC=0,0 
R_R8         0 N58707  10k TC=0,0 
Q_Q6         N58697 N58533 N58791 QBC846B 
Q_Q23         N58211 N58083 N58115 QBC846B 
R_R30         N58083 N58109  1 TC=0,0 
Q_Q25         N58141 N58211 N58083 QBC846B 
X_R36         N62642 N64633 0 POT PARAMS: SET=0.451 VALUE=5k
X_D9         N70066 0 LED PARAMS: IS=5.6404e-29 RS=2  BV=5 IBV=10e-6         
R_R37         N70062 N70320  330 TC=0,0 
X_D10         N662830 0 LED PARAMS: IS=5.6404e-29 RS=2  BV=5 IBV=10e-6         
R_R39         N662830 N69956  220 TC=0,0 
R_R40         N69761 N58115  100 TC=0,0 
R_R41         N69952 N69761  100 TC=0,0 
R_R42         N69956 N69952  100 TC=0,0 
R_R43         N70066 N70062  220 TC=0,0 
R_R44         N70316 N58009  330 TC=0,0 
R_R45         N70320 N70316  330 TC=0,0 
.PARAM  pot_set=1 rload=440
